US06982278B2
3-(5-Methyl-2-phenyloxazol-4-yl)-prop-2-en-1-ol
Lithium aluminum hydride (480 mg, 12.6 mmol) was slurried in anhydrous THF (15 mL) and treated with dropwise addition of a solution of 3-(5-methyl-2-phenyloxazol-4-yl)-acrylic acid, ethyl ester (2.60 g, 10.1 mmol) at 0° C. The reaction mixture was stirred for 1.5 h at this temperature and then treated with dropwise addition of isopropanol (1.0 mL) followed by water (10 mL). The biphasic suspension was acidified with 0.1 N HCl (10 mL), diluted with ether (20 mL) and partitioned. The aqueous layer was extracted once with ether (15 mL) and the combined organic layers dried over MgSO4 and concentrated to provide a colorless oil (1.13 g, 52%): Rf=0.18 (50% hexanes/EtOAc); 1H NMR (300 MHz, CDCl3) δ 7.99-8.03 (m, 2H), 7.42-7.48 (m, 3H), 6.60 (dt, 1H), 6.47 (d, 1H), 4.35 (m, 2H), 3.76 (b, 1H), 2.37 (s, 3H); MS(EI): 216 (M+1).

reactant | Lithium aluminum hydride | 12.6 mmol, 480 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 3-(5-methyl-2-phenyloxazol-4-yl)-acrylic acid, ethyl ester | 10.1 mmol, 2.60 g | CC1=C(N=C(O1)C1=CC=CC=C1)C=CC(=O)OCC | C15H15NO3
reactant | isopropanol | 1.0 mL | C(C)(C)O | C3H8O
reactant | HCl | 0.1 N, 10 mL | Cl | ClH
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | ether | 20 mL | CCOCC | C4H10O
solvent | water | 10 mL | O | H2O
product | 3-(5-Methyl-2-phenyloxazol-4-yl)-prop-2-en-1-ol | 1.13 g, 52% | CC1=C(N=C(O1)C1=CC=CC=C1)C=CCO | C13H13NO2
